US05595988
A mixture of O-ethyl 3-thiopheneethanimidate hydrochloride (0.14 mol) in 1,2-dimethoxyethane (150 ml) was stirred at 15° C. 2,2-dimethoxyethanamine (0.14 mol) was added portionwise and the mixture was stirred overnight. The mixture was evaporated, yielding N-(2,2-dimethoxyethyl)-3-thiopheneethanimidamide monohydrochloride (interm. 13).

reactant | O-ethyl 3-thiopheneethanimidate hydrochloride | 0.14 mol | Cl.S1C=C(C=C1)CC(OCC)=N
reactant | 2,2-dimethoxyethanamine | 0.14 mol | COC(CN)OC | C4H11NO2
solvent | 1,2-dimethoxyethane | 150 ml | COCCOC | C4H10O2
product | N-(2,2-dimethoxyethyl)-3-thiopheneethanimidamide monohydrochloride | Cl.COC(CNC(CC1=CSC=C1)=N)OC | InChI=1S/C10H16N2O2S.ClH/c1-13-10(14-2)6-12-9(11)5-8-3-4-15-7-8;/h3-4,7,10H,5-6H2,1-2H3,(H2,11,12);1H
